*	|==========================================================
*	|
*	|
*	|
*	|			 TLV431A
*	|
*	|			ON Semiconductor
*	|
*	|		 Low Voltage Precision Adjustable Shunt Regulator
*	|
*	|
*	|
*	|
*	|	This model was developed by
*	|
*	|	AEI (Analytic Engineering)
*	|
*	|	182 Morris Avenue
*	|
*	|	Holtsville, NY 11742
*	|
*	|	Copyright 2001 AEI
*	|
*	|	All Rights Reserved
*	|
*	|
*	|
*	|	The content of this model is subject to change
*	|
*	|	without notice and may not be modified or altered
*	|
*	|	without permission from On Semiconductor. This model
*	|
*	|	has been carefully checked and is believed to be
*	|
*	|	accurate, however neither AEI nor On Semiconductor
*	|
*	|	assume liability for the use of this model or the
*	|
*	|	results obtained from using it.
*	|
*	|
*	|
*	|	For more information regarding modeling services,
*	|
*	|	model libraries or simulation productors, please
*	|
*	|	call AEI at (631) 654-0253 ext 116 or 106.
*	|
*	|	email: Sales@aeng.com.
*	|
*	|
*	|
*	|==========================================================
*SPICE_NET
.AC DEC 200 10 2MEG
.OP
.SUBCKT TL431 7 6 11
*             K A FDBK
.MODEL DCLAMP D (IS=13.5N RS=25M N=1.59 
+ CJO=45P VJ=.75 M=.302 TT=50.4N BV=36V IBV=1MA)
.MODEL DCL2 D RS=660K
V1 1 6 1.24
R1 6 2 15.6
C1 2 6 .5U
R2 2 3 100
C2 3 4 1.3U
R3 4 6 8
G2 6 8 3 6  .86
D1 5 8 DCLAMP
D2 7 8 DCLAMP
D4 6 8 DCLAMP
V4 5 6 2
G1 6 2 1 11 0.11
VCLAMP 9 6 14.5
D3  7 9 DCL2
.ENDS
*INCLUDE ON.LIB
*ALIAS  V(2)=VOUT
.PRINT AC  V(2)  VP(2)  V(1)  VP(1) 
.PRINT AC  I(V1) IP(V1)
R1 1 0 8.25K
R2 1 2 15K
C1 1 4 9U
V1 4 0 AC 1
R3 2 3 230
V2 3 0 5.8
X1 2 0 1 TL431
.END
